US06362203B1
In 20 mL of anhydrous dimethylformamide were dissolved 3.5 g (10 mmol) of dimethyl(tetrahydro-3,3-diphenyl-2-furylidene)ammonium bromide and 1.93 g (10 mmol) of 4-(2-hydroxyphenyl)-4-piperidinol. To the resulting solution was added 3.2 g (30 mmol) of sodium carbonate, followed by stirring at 80° C. for 1.5 hours. The reaction mixture was distilled under reduced pressure to remove the solvent and the residue thus obtained was dissolved in ethyl acetate. The resulting solution was washed with water and dried. The residue obtained by concentrating the solvent under reduced pressure was purified by chromatography on a silica gel column, whereby 3.6 g (yield: 78.6%) of 4-(4-hydroxy-4-(2-hydroxyphenyl)piperidino)-N,N-dimethyl-2,2-diphenylbutaneamide (Compound No. 1) was obtained.

reactant | dimethyl(tetrahydro-3,3-diphenyl-2-furylidene)ammonium bromide | 10 mmol, 3.5 g | [Br-].C[N+](=C1OCCC1(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 4-(2-hydroxyphenyl)-4-piperidinol | 10 mmol, 1.93 g | OC1=C(C=CC=C1)C1(CCNCC1)O | C11H15NO2
reactant | sodium carbonate | 30 mmol, 3.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-hydroxy-4-(2-hydroxyphenyl)piperidino)-N,N-dimethyl-2,2-diphenylbutaneamide | 3.6 g, yield: 78.6% | OC1(CCN(CC1)CCC(C(=O)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)O | C29H34N2O3
